US08580785B2
c) Preparation of 6-Amino-5-methoxy-2-trifluoromethyl-quinoline-7-carboxylic acid
A sample of 5-Methoxy-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid is hydrogenated in ethanol in the presence of Raney-Ni analogously to the procedure described for example H-18, step g). This gives the title product as yellow crystals.

reactant | 5-Methoxy-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid | COC1=C2C=CC(=NC2=CC(=C1[N+](=O)[O-])C(=O)O)C(F)(F)F | C12H7F3N2O5
solvent | ethanol | C(C)O | C2H6O
catalyst | Ni | [Ni] | Ni
product | 6-Amino-5-methoxy-2-trifluoromethyl-quinoline-7-carboxylic acid | NC=1C(=C2C=CC(=NC2=CC1C(=O)O)C(F)(F)F)OC | C12H9F3N2O3
